US07977340B2
A stirred solution of 2-Amino-5-bromo-3-nitro-benzoic acid methyl ester (2 g, 7.27 mmol) in 1,2-dimethoxyethane (53 ml) was purged with nitrogen for 15 min and treated with aqueous sodium hydrogen carbonate solution (1M, 14.5 ml) followed by pyridine 3-boronic acid (1.33 g, 10.9 mmol) and 1,1-bis-(diphenylphosphino)ferrocene palladium (II) chloride complex (0.6 g, 0.733 mmol). The resultant mixture was boiled under reflux in a nitrogen atmosphere for 18 h. After cooling to ambient temperature, the dark mixture was diluted with saturated aqueous sodium hydrogen carbonate solution (300 ml) and extracted with ethyl acetate (3×250 ml). This was washed with brine (200 ml), dried (MgSO4) and the solvent removed in vacuo to give a residue which was purified by flash chromatography (silica) eluting with 30% to 100% ethyl acetate in 40-60 petroleum ether. The 2-Amino-3-nitro-5-pyridin-3-yl-benzoic acid methyl ester was obtained as a yellow solid (1.1 g, 56%).

reactant | 2-Amino-5-bromo-3-nitro-benzoic acid methyl ester | 7.27 mmol, 2 g | COC(C1=C(C(=CC(=C1)Br)[N+](=O)[O-])N)=O | C8H7BrN2O4
reactant | pyridine 3-boronic acid | 10.9 mmol, 1.33 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | 1,2-dimethoxyethane | 53 ml | COCCOC | C4H10O2
solvent | sodium hydrogen carbonate | 300 ml | C(O)([O-])=O.[Na+]
solvent | sodium hydrogen carbonate | 1M, 14.5 ml | C(O)([O-])=O.[Na+]
product | 2-Amino-3-nitro-5-pyridin-3-yl-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)C=1C=NC=CC1)[N+](=O)[O-])N)=O | C13H11N3O4
